US07432293B2
a) 6-Dimethylamino-nicotinonitrile
In a 25 ml sealed tube, 1.0 g (7.2 mmol) of 6-chloro-nicotino-nitrile and 1.9 ml (10.8 mmol, 5.6 M, 1.5 eq.) of a solution of dimethyl-amine in ethanol are dissolved in 10 ml of THF. Then, 1.5 ml (10.8 mmol, 1.5 eq.) of triethyl-amine are added and the reaction mixture heated to 75° C. After 4 h, the mixture was cooled to rt and concentrated. The residue was taken up in dichloro-methane and aqueous NaHCO3 (5%), the phases separated and the aqueous phases extracted two times with dichloro-methane. The combined organic phases were dried (Na2SO4) and concentrated. The title compound was obtained as a beige solid and used for the next step without further purification. Mass spectrum: m/z (M+H)+: 148.0

reactant | 6-chloro-nicotino-nitrile | 7.2 mmol, 1.0 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | dimethyl-amine | CNC | C2H7N
reactant | triethyl-amine | 10.8 mmol, 1.5 ml, 1.5 eq. | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Dimethylamino-nicotinonitrile | CN(C1=NC=C(C#N)C=C1)C | C8H9N3
